US08067448B2
N′-((2R,3S)-3-(tert-Butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-iodobenzohydrazide
To a solution of N′-((2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-iodobenzohydrazide (7.3 g, 14.2 mmol) in DMF (60 mL) were added imidazole (3.9 g, 57.3 mmol) and TBSCl (4.3 g, 28.5 mmol) at 0° C. After addition, the mixture was allowed to warm to room temperature gradually and stirred overnight. The reaction was quenched by adding ice-water and extracted with EtOAc. The EtOAc extracts were washed with water, brine and dried over Na2SO4. Removal of the solvent gave a residue, which was purified by SiO2 column to give the title compound (8.6 g, 97%), which was used directly in the next step.

reactant | N′-((2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)-4-iodobenzohydrazide | 14.2 mmol, 7.3 g | ClC=1C(=C(C=CC1C#N)N[C@@H](C(=O)NNC(C1=CC=C(C=C1)I)=O)[C@H](C)O)C | C19H18ClIN4O3
reactant | imidazole | 57.3 mmol, 3.9 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 28.5 mmol, 4.3 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | N′-((2R,3S)-3-(tert-Butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)-4-iodobenzohydrazide | 8.6 g, 97% | [Si](C)(C)(C(C)(C)C)O[C@H]([C@H](C(=O)NNC(C1=CC=C(C=C1)I)=O)NC1=C(C(=C(C=C1)C#N)Cl)C)C | C25H32ClIN4O3Si
